US08703768B2
Step 1: 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester
To a solution of 5-amino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester (0.5 g, 2.9 mmol) in dichloromethane (5 ml) was added consecutively a solution of di-tert-butyl-dicarbonate (0.772 g, 3.5 mmol) in dichloromethane (5 ml) and 4-dimethylaminopyridine (35 mg, 0.3 mmol). The reaction mixture was stirred at ambient temperature for 2 h. The reaction mixture was partitioned between potassium hydrogen sulfate (15 ml, 10% aqueous solution) and dichloromethane (40 ml) and extracted. The organic phase was washed with water and sodium bicarbonate, and the aqueous phases were back-extracted with dichloromethane. The combined organic phases were dried, filtrated and the solvent was evaporated to yield 0.87 g (>100%) of a light brown sticky residue that slowly became crystalline and was used for the next step without any further purification.

reactant | 5-amino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester | 2.9 mmol, 0.5 g | C(C)OC(=O)C=1N=NSC1N | C5H7N3O2S
reactant | di-tert-butyl-dicarbonate | 3.5 mmol, 0.772 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.3 mmol, 35 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-Butoxycarbonylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester | 0.87 g, >100% | C(C)OC(=O)C=1N=NSC1NC(=O)OC(C)(C)C | C10H15N3O4S
